US05117057
Preparation of N'-t-butyl-N-benzoyl-N'-benzenesulfonylhydrazine
N-benzoyl-N'-t-butyl hydrazine (0.8 g) was stirred in pyridine (2 ml) at room temperature. Benzenesulfonyl chloride (0.8 g) was added slowly dropwise, stirred about 1 hour, diluted with diethyl ether (10 ml) and washed several times with a 10% HCl solution and then water. The organic layer was dried over magnesium sulfate. The mixture was filtered and the solvent rotavapped off to afford a white solid in good yield.

reactant | N-benzoyl-N'-t-butyl hydrazine | 0.8 g | C(C1=CC=CC=C1)(=O)NNC(C)(C)C | C11H16N2O
reactant | Benzenesulfonyl chloride | 0.8 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | N'-t-butyl-N-benzoyl-N'-benzenesulfonylhydrazine | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)S(=O)(=O)C1=CC=CC=C1 | C17H20N2O3S
